US05672597
N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2-[2-[(N-cyanopropioimidoyl)amino]ethylthio]-acetamide
There were dissolved 4.0 g (0.0106 mol) of N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2-(2-aminoethylthio)acetamide and 2.01 g (0.0159 mol) of methyl N-cyanopropioimidate in 40 ml of acetonitrile, and after reflux with heating for 18 hours the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:ethanol=10:1) to give 0.69 g of the titled compound as oily matter.

reactant | N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2-(2-aminoethylthio)acetamide | 0.0106 mol, 4.0 g | N1(CCCCC1)CC=1C=C(OC\C=C/CNC(CSCCN)=O)C=CC1 | C20H31N3O2S
reactant | methyl N-cyanopropioimidate | 0.0159 mol, 2.01 g | C(#N)N=C(CC)OC | C5H8N2O
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2-[2-[(N-cyanopropioimidoyl)amino]ethylthio]-acetamide | 0.69 g | N1(CCCCC1)CC=1C=C(OC\C=C/CNC(CSCCNC(CC)=NC#N)=O)C=CC1 | C24H35N5O2S
